US08058441B2
(b). 1-Acetyl-6-(1,1′-biphenyl-yl)-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Suzuki cross-coupling of 1-acetyl-6-iodo-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg), (1,1′-biphenyl-4-yl)boronic acid (28 mg), cesium fluoride (15 mg), triphenylphosphine (5 mg) and tris(dibenzylideneacetone)dipalladium(0) (4.5 mg) in dimethoxyethane/ethanol 4:1 (v/v) (5 ml) was performed according to the method described in example 13.

reactant | 1-acetyl-6-iodo-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)I)(C)C1=CC=CC=C1)(C)C | C20H22INO
reactant | (1,1′-biphenyl-4-yl)boronic acid | 28 mg | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | cesium fluoride | 15 mg | [F-].[Cs+]
reactant | triphenylphosphine | 5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethoxyethane ethanol | 5 ml | C(OC)COC.C(C)O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Acetyl-6-(1,1′-biphenyl-yl)-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)C1=C(C=CC=C1)C1=CC=CC=C1)(C)C1=CC=CC=C1)(C)C | C32H31NO
